US07858640B2
Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yl Ester
A mixture of 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-ol (0.50 g), N-phenyltrifluoromethanesulfonimide (0.68 g), potassium carbonate (0.62 g) and tetrahydrofuran (3.0 mL) was heated by microwave irradiation at 120° C. for 20 minutes. The mixture was diluted with dichloromethane and this solution was washed with water and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and pentane (1:9 by volume) to afford title compound as a yellow solid, 0.36 g.

reactant | 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-ol | 0.50 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)OC1=CC=C(C=C1)Cl)C)O | C17H13Cl2NO2
reactant | N-phenyltrifluoromethanesulfonimide | 0.68 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic Acid 8-chloro-3-(4-chlorophenoxy)-2,4-dimethylquinolin-5-yl Ester | ClC=1C=CC(=C2C(=C(C(=NC12)C)OC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C18H12Cl2F3NO4S
